US08859605B2
Step a) {3,3-Difluoro-1-[hydroxy-(1-methyl-1H-pyrazol-3-ylcarbamoyl)-methyl]-cyclobutyl}-carbamic acid tert-butyl ester (A11-a)
1-Methyl-1H-pyrazol-3-amine (158 mg, 1.63 mmol) and DIEA (1.08 mL, 6.52 mmol) was added to a solution of (1-tert-Butoxycarbonylamino-3,3-difluoro-cyclobutyl)-hydroxy-acetic acid (1.63 mmol) dissolved in DMF (20 mL). The solution was cooled to 0° C. and after 10 minutes HATU (620 mg, 1.63 mmol) was added. After approximately 2 hours at RT, LC-MS showed product and no starting material and the solvent was removed by rotary evaporation. The crude product was dissolved in 40 mL EtOAc and washed with 25 mL sat. NaHCO3 (aq). The organic phase was dried with Na2SO4, filtered and evaporated to dryness. The crude product was purified on a 25 g silica column on a Biotage Flashmaster, which gave the title product as a white solid (92%). TLC rf: 0.07 in heptane:ethyl acetate 1:1.

reactant | 1-Methyl-1H-pyrazol-3-amine | 1.63 mmol, 158 mg | CN1N=C(C=C1)N | C4H7N3
reactant | DIEA | 6.52 mmol, 1.08 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (1-tert-Butoxycarbonylamino-3,3-difluoro-cyclobutyl)-hydroxy-acetic acid | 1.63 mmol | C(C)(C)(C)OC(=O)NC1(CC(C1)(F)F)C(C(=O)O)O | C11H17F2NO5
reactant | HATU | 1.63 mmol, 620 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | {3,3-Difluoro-1-[hydroxy-(1-methyl-1H-pyrazol-3-ylcarbamoyl)-methyl]-cyclobutyl}-carbamic acid tert-butyl ester | 92% | C(C)(C)(C)OC(NC1(CC(C1)(F)F)C(C(NC1=NN(C=C1)C)=O)O)=O | C15H22F2N4O4
